Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Shellfish Derived / Demerol
 
Attending: ___.
 
Chief Complaint:
Syncope, DOE

 
Major Surgical or Invasive Procedure:
Cardiac Catheterization (___)

 
History of Present Illness:
The patient is a ___ year old male with an extensive cardiac 
history including atrial fibrillation s/p 2 failed pulmonary 
vein isolation attempts, mini-maze with left atrial excision, 
and ultimately AV nodal ablation in ___, CAD with prior cath at 
OSH ___ with PCI of RCA, and sick sinus syndrome status post 
dual-chamber pacemaker implantation in ___ who presents with a 
recurrence of two syncopal episodes.  He states that he is 
currently caring for two dogs (dog-sitting), walked one, 
returned to the house to retrieve the other, and as he was 
headed down a flight of steps felt himself getting lightheaded, 
nauseous, blurred vision, chest heaviness and his legs buckled 
and he passed out. He happened to have glanced at his watch just 
prior and noted upon coming to that he had been out for about 5 
minutes. No postictal symptoms or loss of bowel/bladder 
function. He was able to recover and go on with the day. 
However, later in the day he had a second similar episode, this 
one lasting approximately 7 minutes. During the latter episode, 
he did strike his head against a fence but does not believe he 
injured himself. He then called EMS and was given 4 baby aspirin 
to chew and SLNG x 3 en route to ___. There, he was 
evaluated and sent here where he is well known (received 
morphine while there). In our ED, cardiology fellow was 
consulted and recommended starting heparin gtt (patient was 
guaiac negative). He had a negative troponin at OSH and another 
negative troponin on arrival here. He also had CXR which was 
unremarkable and negative D-dimer.
.
In addition to the above, he had some chest discomfort ~ 5 
minutes in the morning (prior to either syncopal episode) for 
which he took one SLNG -> resolved. He has also had "labored" 
breathing all day, worse with any exertion (has baseline DOE as 
well).
.
On review of systems, he denies myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. He denies recent fevers, 
chills or rigors. He denies exertional buttock or calf pain. All 
of the other review of systems were negative. Cardiac review of 
systems is notable for absence of paroxysmal nocturnal dyspnea.  
He does use ___ pillows to sleep comfortably at night.
.
In the ED, initial vitals were T 97.9, HR 84, BP 108/66, RR 14, 
and SpO2 98% on 2L NC. Admission vitals were T 98.2, HR 80, BP 
122/76, RR 15, and SpO2 97% on 2L NC. On arrival to the floor, 
he endorsed ___ very short episodes of "cramping" CP that have 
self-resolved. His breathing continues to feel somewhat labored 
but is better on 2L O2. He is otherwise well.
.
 
Past Medical History:
-Atrial fibrillation status post two prior pulmonary vein 
isolation in ___ and ___ in ___ with subsequent 
recurrences followed by mini-maze with left atrial excision in 
___ at ___.
-AV nodal ablation at ___ in ___ for rate control currently
on Dofetilide as well as warfarin.
-Multiple prior TIAs and/or CVAs.
-Coronary artery disease status post PCI of the right coronary 
artery in ___.
-Sick sinus syndrome status post dual-chamber pacemaker 
implantation in ___, which was placed at an outside facility.
-Anxiety, panic d/o, and bipolar disorder.
-Sleep-disordered breathing on CPAP.
-Recent admission to the ___ for question of syncope 
and headaches thought to be related to complex migraines as 
determined by the neurology service.
-subarachnoid hemorrhage in ___
-embolic strokex3 in ___ and 2 in ___
-TIA- pt reports >4 dozen. Last in ___
-frequent sinus infections and rhinoplasty with deviated septal 
repair in pt___s ___
-RLS- acting up in last ___ wks
-OA of knees and hips
-Sleep-disordered breathing, on CPAP
-penile prosthesis ___

 
Social History:
___
Family History:
Notable for a mother who died at age ___ with breast cancer and 
had diabetes mellitus. His father died at age ___ from an 
automobile accident and survived a ruptured aortic aneurysm per 
patient report. States every male on his maternal side died of a 
"heart condition" prior to ___ yrs old. Has 2 sisters aged ___ and 
healthy and ___ with breast cancer.

 
Physical Exam:
Physical Exam On Admission:
VS: T 97.6, BP 128/84, HR 81, RR 18, SpO2 97% on RA
....Wt 88 kg today on admission
Gen: NAD. Alert and oriented x3. Mood and affect appropriate. 
Pleasant and cooperative. Resting in bed.
HEENT: NCAT (very small scabbed-over 4-mm abrasion on occiput). 
PERRL, EOMI, anicteric sclera. MMM, OP benign.
Neck: Supple. JVP not elevated. No cervical lymphadenopathy.
CV: RRR. Normal S1, S2.  No M/R/G appreciated.
Chest: Respiration unlabored, able to speak in full sentences.  
Lungs CTAB.  No wheezes, rhonchi, or rales.
Abd: BS present. Soft, NT, ND. No HSM detected.
Ext: WWP, no cyanosis or clubbing. No ___ edema. Digital cap 
refill <2 sec.  Distal pulses radial 2+, DP 2+, ___ 2+.
Skin: Multiple tattoos.  No rashes, ecchymoses, or other lesions 
noted.
Neuro: CN II-XII grossly intact.  Moving all four limbs.
.
Physical Exam On Discharge:
VS: T 98.8, BP 122/82, HR 88, RR 16, SpO2 100% on RA, Wt 87.4 kg
Gen: NAD. Alert and oriented x3. Mood and affect appropriate. 
Pleasant and cooperative. Resting in bed.
HEENT: NCAT. PERRL, EOMI, anicteric sclera. MMM, OP benign.
Neck: Supple. JVP not elevated. No cervical lymphadenopathy.
CV: RRR. Normal S1, S2.  No M/R/G appreciated.
Chest: Respiration unlabored.  Lungs CTAB.  No wheezes, rhonchi, 
or rales.
Abd: BS present. Soft, NT, ND. No HSM detected.
Ext: WWP, no cyanosis or clubbing. No ___ edema. Digital cap 
refill <2 sec.  Distal pulses radial 2+, DP 2+, ___ 2+.  Right 
radial cath site nontender with dressing C/D/I.
Skin: Multiple tattoos.
Neuro: Moving all four limbs.

 
Pertinent Results:
LABORATORY RESULTS ON ADMISSION:
___ 01:50AM BLOOD WBC-8.9 RBC-4.82 Hgb-15.6 Hct-44.6 MCV-93 
MCH-32.3* MCHC-35.0 RDW-14.4 Plt ___
___ 01:50AM BLOOD Neuts-55.1 ___ Monos-4.6 Eos-3.1 
Baso-1.3
___ 01:50AM BLOOD ___ PTT-29.0 ___
___ 01:50AM BLOOD Glucose-90 UreaN-13 Creat-0.9 Na-140 
K-4.0 Cl-106 HCO3-22 AnGap-16
___ 08:50AM BLOOD Calcium-8.7 Phos-3.7 Mg-2.4
___ 01:50AM BLOOD D-Dimer-<150
.
CARDIAC BIOMARKERS:
___ 01:50AM BLOOD cTropnT-<0.01
___ 08:50AM BLOOD cTropnT-<0.01
___ 07:46PM BLOOD CK(CPK)-100 CK-MB-4 cTropnT-<0.01
___ 07:35AM BLOOD CK(CPK)-76 CK-MB-4 cTropnT-<0.01
.
LABORATORY RESULTS ON DISCHARGE:
___ 07:50AM BLOOD WBC-9.6 RBC-4.90 Hgb-15.8 Hct-46.8 MCV-96 
MCH-32.3* MCHC-33.7 RDW-14.5 Plt ___
___ 07:50AM BLOOD ___ PTT-47.4* ___
___ 07:50AM BLOOD Glucose-103* UreaN-15 Creat-1.2 Na-139 
K-4.1 Cl-100 HCO3-29 AnGap-14
___ 07:50AM BLOOD Calcium-9.6 Phos-3.9 Mg-2.3
.
IMAGING / STUDIES:
# CHEST (PA & LAT) ___ at 2:49 AM):
COMPARISON: ___. 
FINDINGS: A pacer unit projects over the left upper chest with 
leads in the right atrium and right ventricle. The 
cardiomediastinal and hilar contours appear unchanged from prior 
study. The lungs are clear. There is no pleural effusion or 
pneumothorax. The osseous structures are intact.
IMPRESSION: No acute cardiopulmonary process.
.
# ECG ___ at 8:35:24 ___:
A-V sequential pacing at 80 beats per minute. Compared to the 
previous tracing of ___ no diagnostic interim change..
.
# ECG ___ at 12:45:26 ___: 
Atrial and ventricular sequential pacing. Compared to the 
previous tracing
of ___ there is no significant change.
.
# Cardiac Cath (___):
1. Coronary angiography in this right-dominant system 
demonstrated no angiographically apparent disease in the LMCA, 
LAD, LCx or RCA. The prior RCA stent was widely patent.
2. Limited resting hemodynamics revealed normal left-sided 
filling pressures. The systemic arterial blood pressure was 
normal. There was no gradient upon pullback of the catheter from 
the left ventricle to the aorta.
FINAL DIAGNOSIS:
1. No coronary artery disease.
2. RCA stent patent.
3. Normal left-sided filling pressures.
4. No aortic stenosis.
.

 
Brief Hospital Course:
The patient is a ___ year old male with extensive cardiac history 
including refractory AFib s/p multiple procedures and AV nodal 
ablation with PPM placement who presents with recurrence of 
syncopal episodes, chest heaviness, and SOB concerning for 
ischemia versus arrhythmia.
.
# Syncope: The patient has had multiple prior episodes but the 
etiology remains unclear.  He was recently admitted on ___ 
for similar symptoms.  He does not have symptoms suggestive of a 
seizure such as postictal state or incontinence. His syncopal 
episodes could possibly be related to an arrhythmia, although 
there is no concrete evidence of this. Alternatively, many of 
his symptoms in the past have also occurred with headache and 
per Neurology work up may be manifestation of complex migraines. 
 Panic attacks are another plausible etiology, particularly 
given the patient's anxiety over his recent stress test 
findings.  PPM interrogation on ___ by EP showed that the 
device was functioning properly.  No significant arrhythmia was 
seen on telemetry during his stay.
.
# Chest pain: Given his extensive cardiac history, a cardiac 
etiology for his symptoms must be considered.  His negative 
D-dimer makes PE very unlikely and clear CXR makes a pulmonary 
etiology less likely as well.  Cardiac enzymes were negative x4. 
He recently (___) underwent stress imaging, which revealed 
new inferior wall hypokinesis. Given that finding and recent 
exacerbation of symptoms, he was previously planned for 
outpatient cath on ___ to evaluate for any intervenable 
disease.  His cath was expedited on this admission to rule out 
significant CAD as a cause of his symptoms.  Cardiac cath on 
___ with a right radial approach showed no significant 
obstructive coronary disease and no interventions were 
performed.  He tolerated the procedure well without any 
immediate complications.  He was continued on his prior cardiac 
regimen.
.
# Pump: Echo ___ showed LVEF 55-60% with no focal wall 
motion abnormalities noted.  Stress imaging on ___ showed a 
new small fixed inferior wall perfusion defect with focal 
hypokinesis and LVEF 44%.  This represents a significant 
decrease in LVEF.  He did not have any current clinical signs or 
symptoms of CHF.  Repeat TTE could be considered as an 
outpatient.
.
# Atrial fibrillation: The patient is status post two prior 
pulmonary vein isolations (___) with subsequent 
recurrences followed by mini-maze with left atrial excision.  He 
is also s/p AV nodal ablation in ___.  He reports a history of 
multiple prior TIA/CVAs, without any apparent residual deficits. 
 His PPM settings were re-adjusted during his last admission.  
He is on Warfarin 5 mg PO daily at home.  In preparation for 
cath, his Warfarin was held on ___ and he was started on a 
lower dose of Warfarin 3 mg PO daily the next day with goal INR 
<1.8 for cath.  He was bridged with a Heparin drip while 
subtherapeutic.  His INR was 1.3 at the time of his cath.  He 
was restarted on his home Warfarin regimen after his cath, with 
an extra dose of Warfarin 5 mg PO given.  He was bridged with 
Lovenox 80 mg SC BID on discharge until he achieves a 
therapeutic INR.  He was continued on Dofetilide 500 mcg PO Q12H 
during his stay.
.
# Anxiety/bipolar disorder:  He was continued on his home 
regimen of Bupropion, Lithium, and Lexapro, with Alprazolam PRN 
anxiety and Clonazepam QHS.
.
# HTN:</I> He remained normotensive and was continued on his 
home Lisinopril 10 mg PO daily and Propranolol 40 mg PO/NG BID.
.
# Headaches: He has not had any recent headaches associated with 
his current episodes.  He has had episodic headaches in the past 
associated with nausea, visual obscuration and limb 
paresthesias.  He is followed by Neurology as an outpatient. Per 
most recent Neuro note, these symptoms are felt to be consistent 
with migrainous phenomenon.  He was continued on Propranolol 40 
mg PO/NG BID.
.
# Sleep disordered breathing: He is on home CPAP and followed by 
___ in sleep clinic.  He was continued on CPAP and 
slept well with it in place overnight.
.
# Code status: DNR/DNI
.

 
Medications on Admission:
Enoxaparin 80 mg/0.8 mL Sub-Q Syringe inject one syringe twice a 
day as directed (plan was to bridge starting ___ for cath 
___
Mirapex 0.125 mg Tab by mouth at bedtime
Tikosyn 500 mcg Cap by mouth twice a day
Lexapro 20 mg Tab by mouth once a day   
Vytorin 10 mg-20 mg Tab by mouth once a day   
propranolol 40 mg Tab by mouth twice a day
Clonazepam 0.5 mg Tab by mouth at bedtime  
Alprazolam 0.5 mg Tab by mouth twice a day   
Lisinopril 10 mg Tab by mouth qam   
Lithium Carbonate 300 mg Cap by mouth once a day
Aleve 220 mg Tab by mouth as needed   
Warfarin 5 mg Tab by mouth once a day   
Bupropion HCl XL 300 mg 24 hr Tab by mouth once a day
Aspirin 81 mg PO Once Daily

 
Discharge Medications:
1. warfarin 5 mg Tablet Sig: One (1) Tablet PO once a day.  
2. pramipexole 0.125 mg Tablet Sig: One (1) Tablet PO QHS (once 
a day (at bedtime)).  
3. dofetilide 500 mcg Capsule Sig: One (1) Capsule PO Q12H 
(every 12 hours).  
4. escitalopram 20 mg Tablet Sig: One (1) Tablet PO once a day.  

5. Vytorin ___ mg Tablet Sig: One (1) Tablet PO once a 
day.  
6. propranolol 40 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
7. clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
8. alprazolam 0.5 mg Tablet Sig: One (1) Tablet PO twice a day 
as needed for anxiety.  
9. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. lithium carbonate 300 mg Capsule Sig: One (1) Capsule PO 
once a day.  
11. bupropion HCl 300 mg Tablet Sustained Release 24 hr Sig: One 
(1) Tablet Sustained Release 24 hr PO once a day.  
12. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
13. enoxaparin 80 mg/0.8 mL Syringe Sig: One (1)  Subcutaneous 
twice a day for 3 days: Continue until INR reaches ___.
Disp:*6 syringes* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
Atypical Chest Pain
Syncope

Secondary Diagnoses:
Atrial Fibrillation
AV Nodal Ablation
Permanent Pacemaker
Sleep Disordered Breathing
Complex Migraines

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for chest pain and several 
recent episodes in which you briefly lost consciousness.  Given 
your history of atrial fibrillation, AV nodal ablation, and 
pacemaker dependence, there was initial concern that an abnormal 
heart rhythm was the cause of your symptoms.  While in the 
hospital, your pacemaker was examined and was found to be 
working properly.  You were kept on continuous heart monitoring 
and no abnormal heart rhythms were seen.

Because of your chest pain and recent stress test results, you 
were also evaluated for evidence of a heart attack.  No changes 
were seen in your EKG, and lab tests showed no evidence of 
recent or ongoing injury to your heart muscle.  You went for 
cardiac catheterization on ___ and tolerated the procedure 
well.  The catheterization did not show any significant 
blockages in any of the major arteries that supply the heart.

Your Coumadin was held in preparation for your catheterization, 
and you were treated with Heparin while your INR was 
subtherapeutic.  You should restart your usual Coumadin regimen 
after discharge.  Until your INR reaches ___, you will need 
Enoxaparin (Lovenox) injections for adequate anticoagulation.

START: Enoxaparin 80 mg injected subcutaneously twice daily 
until INR reaches ___

None of your home medications were changed in the hospital.  You 
should continue taking your medications as previously prescribed 
and as indicated on your discharge medication sheet.

You have several appointments scheduled in the near future at 
___.  Details are below.

 
Followup Instructions:
___